US07544690B2
A mixture of (2-chloro-quinazolin-4-yl)-dimethyl-amine (1.50 g, 7.22 mmol) and trans-(4-aminomethyl-cyclohexyl)-carbamic acid benzyl ester hydrochloride (2.59 g, 8.67 mmol) in 2-propanol (15 mL) was stirred at reflux for 8 days and dissolved in CHCl3 and MeOH. The mixture was poured into saturated aqueous NaHCO3, and the aqueous layer was extracted with CHCl3 (three times). The combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (H-silica gel, 33% EtOAc in hexane) to give trans-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-cyclohexyl}-carbamic acid benzyl ester (1.20 g, 38%) as a pale yellow solid.

reactant | (2-chloro-quinazolin-4-yl)-dimethyl-amine | 7.22 mmol, 1.50 g | ClC1=NC2=CC=CC=C2C(=N1)N(C)C | C10H10ClN3
reactant | trans-(4-aminomethyl-cyclohexyl)-carbamic acid benzyl ester hydrochloride | 8.67 mmol, 2.59 g | Cl.C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)CN)=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 2-propanol | 15 mL | CC(C)O | C3H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | CO | CH4O
product | trans-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-cyclohexyl}-carbamic acid benzyl ester | 1.20 g, 38% | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C)=O | C25H31N5O2
